US06610692B1
Step 1 cis-3-Cyclopropylmethoxy-4-hydroxytetrahydrofuran
To a stirred solution of cis-3,4-dihydroxytetrahydrofuran (5.8 g, 56 mmol) and bromomethylcyclopropane (5.0 g, 37 mmol) in DMF (100 mL) at 0° C. was added sodium hydride (1.6 g of a 60% suspension in mineral oil, 40 mmol) in portions over a period of 2 h. The resulting solution was stirred at 0° C. for 1 h and then at ambient temperature for 18 h. The solution was concentrated in vacuo and partitioned between EtOAc and water. The organic phase was separated, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography using 1:1 EtOAc:hexanes as eluant to give the title compound as a colorless liquid (1.8 g; TLC Rf=0.4, 1:1 EtOAc:hexanes).

reactant | cis-3,4-dihydroxytetrahydrofuran | 56 mmol, 5.8 g | O[C@@H]1COC[C@@H]1O | C4H8O3
reactant | bromomethylcyclopropane | 37 mmol, 5.0 g | BrCC1CC1 | C4H7Br
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | cis-3-Cyclopropylmethoxy-4-hydroxytetrahydrofuran | 1.8 g | C1(CC1)CO[C@@H]1COC[C@@H]1O | C8H14O3
